* C:\Users\robin\OneDrive\Documenten\School\Fontys\Minor\Be creative minor\Git\Audio-DSP\LTspice\Front-end\VU-meter.asc
XU1 N005 N001 +15VD -15VD N003 LT6220
V1 +15VD 0 15
V2 0 -15VD 15
XU2 N004 N002 +15VD -15VD VRECT LT6220
R1 N005 Audio 100k
C1 N001 N003 47p
D1 N001 N003 1N4148
D2 N003 N004 1N4148
R2 N004 0 10k
R3 N002 N001 10k
R4 VRECT N002 10k
V3 Audio 0 SINE(0 1 1k)
.model D D
.lib C:\Users\robin\OneDrive\Documenten\LTspiceXVII\lib\cmp\standard.dio
.tran 0 4m 0
.lib LTC4.LIB
.backanno
.end
